US06670494B1
The zinc hydroxide precipitate was then placed into a beaker provided with a reflux condenser and 29.2 grams (0.2 Mole) of lysine was added. 100 ml ethanol was then added to this mixture and stirred and boiled at atmospheric pressure for 3 hours. The reaction mixture was then cooled and filtered yielding 35.5 grams of zinc lysinate in the form of a fine white powder.

reactant | zinc hydroxide | [OH-].[Zn+2].[OH-]
reactant | lysine | 0.2 Mole, 29.2 grams | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | zinc lysinate | 35.5 grams | N[C@@H](CCCCN)C(=O)[O-].[Zn+2].N[C@@H](CCCCN)C(=O)[O-] | InChI=1S/2C6H14N2O2.Zn/c2*7-4-2-1-3-5(8)6(9)10;/h2*5H,1-4,7-8H2,(H,9,10);/q;;+2/p-2/t2*5-;/m00./s1
